US09260441B2
Step C: 1-(4-Methyl-2-pyridyl)-4-[(E)-3,3,4,4,4-pentafluorobut-1-enyl]sulfonyl-piperazine
To a solution of 1-(diethoxyphosphorylmethylsulfonyl)-4-(4-methyl-2-pyridyl)piperazine (242 mg, 0.618 mmol) in anhydrous THF (25 ml) were added molsieves 4A and sodium hydride (60%, 38 mg, 0.95 mmol) under nitrogen and the mixture was stirred at room temperature for 10 minutes. The mixture was cooled to 0° C. and 2,2,3,3,3-pentafluoro-1-methoxy-propan-1-ol (300 mg, 1.67 mmol) was added. The mixture was stirred at 0° C. for 30 minutes and then allowed to reach room temperature over one hour. The mixture was filtered through kieselguhr, concentrated under reduced pressure and the residue was purified by column chromatography (reveleris, gradient from 0 to 100% ethyl acetate in n-heptane) to yield 130 mg (0.337 mmol, yield 55%).

reactant | 1-(diethoxyphosphorylmethylsulfonyl)-4-(4-methyl-2-pyridyl)piperazine | 0.618 mmol, 242 mg | C(C)OP(=O)(OCC)CS(=O)(=O)N1CCN(CC1)C1=NC=CC(=C1)C | C15H26N3O5PS
reactant | sodium hydride | 0.95 mmol, 38 mg | [H-].[Na+]
reactant | 2,2,3,3,3-pentafluoro-1-methoxy-propan-1-ol | 1.67 mmol, 300 mg | FC(C(O)OC)(C(F)(F)F)F | C4H5F5O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-(4-Methyl-2-pyridyl)-4-[(E)-3,3,4,4,4-pentafluorobut-1-enyl]sulfonyl-piperazine | yield 55% | CC1=CC(=NC=C1)N1CCN(CC1)S(=O)(=O)\C=C\C(C(F)(F)F)(F)F | C14H16F5N3O2S
